US06768019B2
Preparation of 1-(4-methanesulfonyl-phenyl)-4,5-dihydro-2H-benzo[e]indazole
(E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one (50 mg, 0.16 mmol), hydrazine hydrate (0.0155 ml, 0.32 mmol) were added into ethanol (5.0 ml) and 1-2 drops of acetic acid was added properly. Then, the solution was stirred and refluxed for 48 hours and cooled to room temperature. Afterward, the resulting solution was concentrated under reduced pressure, diluted by adding dichloromethane (10 ml), and then washed with water and the saturated brine. The residue was purified through silica gel column chromatography (eluent: ethylacetate/n-hexane=1/1, v/v). As a result, 35 mg of the present compound (productive yield 68%) was obtained as a brown solid.

reactant | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one | 0.16 mmol, 50 mg | CS(=O)(=O)C1=CC=C(\C=C/2\C(CCC3=CC=CC=C23)=O)C=C1 | C18H16O3S
reactant | hydrazine hydrate | 0.32 mmol, 0.0155 ml | O.NN
catalyst | acetic acid | 1-2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | 1-(4-methanesulfonyl-phenyl)-4,5-dihydro-2H-benzo[e]indazole | 35 mg, yield 68% | CS(=O)(=O)C1=CC=C(C=C1)C=1NN=C2CCC3=C(C12)C=CC=C3 | C18H16N2O2S
